datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[C:8](=[C:9]([C:10]([C:11](=[C:12]([H:18])[H:19])[H:17])[H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2](=[C:3][C:4]#[C:5][H:7])[C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11](=[C:12]([H:18])[H:19])[H:17])[H:16])[H:6],66.0235
[C:0](=[C:1][C:2]([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:11])[H:12])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:11])[H:12])[H:9])[H:10],181.895216
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]([C:10]([H:17])([H:18])[H:19])([C:11]([H:20])([H:21])[H:22])[O:12][O:13])([H:14])([H:15])[H:16]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][O:13][O:12][C:9]([C:8]([H:14])([H:15])[H:16])([C:10]([H:17])([H:18])[H:19])[C:11]([H:20])([H:21])[H:22],85.60464
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:26]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][O:26],7.397312
[C:0](=[O:1])([H:2])[H:3].[c:4]1[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]1[H:14]>>[C:0](=[O:1])[H:3].[H:2][c:4]1[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]1[H:14],0.158992
[O:0]=[S:1]([O:2][H:4])[H:3]>>[H:3].[O:0]=[S:1][O:2][H:4],308.7792
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18]([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:11])[C:18]([H:19])([H:20])[H:21])[H:10],21.5058
[H:9].[O:0]=[C:1]1[C:2]=[C:3]([H:6])[C:4]([H:7])=[C:5]1[H:8]>>[O:0]=[C:1]1[C:2]([H:9])=[C:3]([H:6])[C:4]([H:7])=[C:5]1[H:8],0.0
[C:0]1([H:9])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1([H:15])[H:16].[H:17]>>[C:0]1([H:9])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1[H:16].[H:15][H:17],0.0
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23]([C:24]([C:25]([H:35])([H:36])[H:37])[c:26]1[c:27]([H:38])[c:28]([H:39])[c:29]([H:40])[c:30]([H:41])[c:31]1[H:42])([H:32])([H:33])[H:34]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[C:24]([C:23]([H:32])([H:33])[H:34])([C:25]([H:35])([H:36])[H:37])[c:26]1[c:27]([H:38])[c:28]([H:39])[c:29]([H:40])[c:30]([H:41])[c:31]1[H:42])[H:13])([H:11])[H:12],39.748
[N:0]([H:1])[H:2].[O:3][O:4][H:5]>>[N:0]([H:1])([H:2])[H:5].[O:3][O:4],8.480968
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[H:5])[H:4],9.91608
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3](=[O:4])[C:5]([O:6][O:7][H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3](=[O:4])[C:5]([O:6])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10].[O:7][H:17],175.728
[C:0]([C:1]=[N:2][H:6])([H:3])([H:4])[H:5].[C:7]([H:8])([H:9])[H:10]>>[C:0](=[C:1]=[N:2][H:6])([H:4])[H:5].[H:3][C:7]([H:8])([H:9])[H:10],0.0
[C:0](=[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])[C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([C:10]([H:28])([H:29])[H:30])[C:11](=[C:12]([H:32])[H:33])[H:31])[H:27])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]1([C:3]([H:16])([H:17])[H:18])[C:4]([H:19])([H:20])[C:5]([H:21])([H:22])[C:6]([H:23])([H:24])[C:7]([H:25])([H:26])[C:8]1([C:9]([C:10]([H:28])([H:29])[H:30])[C:11](=[C:12]([H:32])[H:33])[H:31])[H:27])[H:15])([H:13])[H:14],61.9232
[C:0]1([H:7])[C:1]2([H:8])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])=[C:5]([H:12])[C:6]12[H:13]>>[C:0]1([H:7])([H:8])[C:1]2[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])=[C:5]([H:12])[C:6]12[H:13],161.5024
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[O:9][H:10]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][O:9][H:10],4.3965472
[N:0]([N:1]([H:4])[H:5])([H:2])[H:3].[N:6]([H:7])[H:8]>>[H:2][N:6]([H:7])[H:8].[N:0]([N:1]([H:4])[H:5])[H:3],6.81992
[N:0]([H:1])[H:2].[N:3]([N:4]([H:6])[H:7])[H:5]>>[H:1][N:3]([N:4]([H:6])[H:7])[H:5].[N:0][H:2],70.1
[N:0]([C:1]([C:2]([C:3]([N:4]([H:14])[H:15])([C:5](=[O:6])[H:16])[H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:3]([N:4]([H:14])[H:15])(=[C:5]([O:6][H:9])[H:16])[H:13].[N:0]([C:1](=[C:2]([H:11])[H:12])[H:10])([H:7])[H:8],217.237
[C:0](=[C:1]([N:2]=[O:3])[H:6])([H:4])[H:5].[O:7][H:8]>>[C:0](=[C:1]([N:2]=[O:3])[H:6])[H:5].[H:4][O:7][H:8],-4.987328
